Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / iodine / Levaquin
 
Attending: ___.
 
Chief Complaint:
throat foreign body
 
Major Surgical or Invasive Procedure:
EGD with foreign body removal

 
History of Present Illness:
___ with history of GERD presents to ED with esophageal foreign
body. She ate homemade chicken soup ___ but then felt
something lodge in esophagus.  She went to her PCP ___, had
CXR showing no FB, so was given symptomatic treatment with
viscous Xylocaine.  Then, due to persistence of symptoms, she
returned to ___ who ordered CT scan which showed 18 x 16 x 3 mm
foreign body in the cervical esophagus.  She was then 
transferred
to ___ for further care.

 
Past Medical History:
Vit D deficiency
Depression
GERD
 
Social History:
___
Family History:
No FH of GI strictures or autoimmune conditions.
 
Physical Exam:
ADMISSION PHYSICAL:
VITALS:  98.0 123/73 78 15 100% RA
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema
Skin: Warm, dry, no rashes or notable lesions.   
Neuro: CNII-XII intact, ___ strength upper/lower extremities,
grossly normal sensation, 2+ reflexes bilaterally. 

DISCHARGE PHYSICAL:
General: NAD, laying back in bed
HEENT: EOMI, AT/NC, no JVD, no tracheal deviation, no LAD
Cardiac: RRR, s1+s2 normal, no m/g/r appreciated
Lungs: CTAB
Abd: +BS, non-tender, non-distended, no organomegaly appreciated
Ext: Pulses present, no edema
Skin: No lesions identified
Neuro: No motor/sensory deficits elicited
 
Pertinent Results:
ADMISSION LABS:
___ 05:05PM URINE  HOURS-RANDOM
___ 05:05PM URINE  UHOLD-HOLD
___ 05:05PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 05:05PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-10* BILIRUBIN-NEG UROBILNGN-8* PH-6.5 
LEUK-NEG
___ 04:00PM   GLUCOSE-86 UREA N-7 CREAT-0.8 SODIUM-139 
POTASSIUM-4.8 CHLORIDE-99 TOTAL CO2-26 ANION GAP-14
___ 04:00PM   estGFR-Using this
___ 04:00PM   CALCIUM-9.9 PHOSPHATE-3.6 MAGNESIUM-2.0
___ 04:00PM   WBC-10.7* RBC-4.05 HGB-12.6 HCT-38.3 MCV-95 
MCH-31.1 MCHC-32.9 RDW-13.1 RDWSD-45.3
___ 04:00PM   NEUTS-75.4* LYMPHS-15.9* MONOS-7.0 EOS-1.2 
BASOS-0.2 IM ___ AbsNeut-8.04* AbsLymp-1.69 AbsMono-0.75 
AbsEos-0.13 AbsBaso-0.02
___ 04:00PM   PLT COUNT-297
___ 04:00PM   ___ PTT-33.6 ___

DISCHARGE LABS:
___ 05:37AM BLOOD WBC-9.8 RBC-3.78* Hgb-11.5 Hct-34.9 
MCV-92 MCH-30.4 MCHC-33.0 RDW-13.2 RDWSD-44.6 Plt ___
___ 05:37AM BLOOD Plt ___
___ 05:37AM BLOOD Glucose-87 UreaN-6 Creat-0.7 Na-141 K-4.0 
Cl-102 HCO3-24 AnGap-15
___ 05:37AM BLOOD Calcium-9.2 Phos-3.6 Mg-1.7

IMAGING:
___ CT Neuro ___ opinion:
IMPRESSION:  
A radiopaque curvilinear structure is lodged in the upper 
esophagus slightly below the cricopharyngeus, and just above the 
level of the thoracic inlet, compatible with known foreign body. 
 There is circumferential esophageal wall thickening and 
inflammatory changes, but no definite perforation or 
pneumomediastinum. 

MICRO:
___ Urine Cx: NEG
 
Brief Hospital Course:
___ with history of GERD presents to ED with esophageal foreign 
body (chicken bone). Following chicken soup ___, she felt 
something lodge, had CXR ___ showing no FB, given 
symptomatic treatment with viscous Xylocaine. Persistence of 
symptoms, prompted CT scan showing 18 x 16 x 3 mm foreign body 
in the cervical esophagus. Transferred to ___, where she 
underwent EGD and removal of the bone on ___. They visualized 
erosive disease to the esophagus, for which she would benefit 
from 5 days of amoxicillin. She was maintained on her home oral 
PPI BID. Gastrografin swallow study ___ yielded no leakage. She 
tolerated soft diet prior to discharge. Remained clinically 
stable.

ACUTE ISSUE:
#Foreign body:
After eating chicken soup s/p removal via EGD and visualization 
of erosive damage to esophagus. Gastrograffin study to check for 
leak was negative. Started on clears diet, and advanced to softs 
to stay for 5 days prior to regular diet. Continued viscous 
lidocaine for pain. Transitioning with Amoxicllin for 5 days 
given esophageal injury.

CHRONIC ISSUES:
#GERD: continued lansoprazole
#Depression: no meds at home
#Vit D deficiency: on no meds, outpt issue

TRANSITIONAL ISSUES:
#Discharged with 5 day course of amoxicillin for infection 
prophylaxis given esophageal injury
#Patient to schedule follow-up in ___ clinic in ___ weeks after 
discharge.
#Soft diet for 5 days before advancing to regular diet; can use 
viscous lidocaine for ongoing pain
#Patient to follow-up with outpatient GI doctor Dr. ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Lidocaine Viscous 2% 15 mL PO TID:PRN sore throat 
2. Lansoprazole Oral Disintegrating Tab 30 mg PO BID 

 
Discharge Medications:
1.  Amoxicillin 500 mg PO Q8H 
RX *amoxicillin 500 mg 1 capsule(s) by mouth every 8 hours Disp 
#*15 Capsule Refills:*0 
2.  Lansoprazole Oral Disintegrating Tab 30 mg PO BID  
3.  Lidocaine Viscous 2% 15 mL PO TID:PRN sore throat  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Food particle esophageal impaction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___.

Why was I in the hospital?
  - You were hospitalized for the removal of a piece of food 
that was impacted in the tube that connects your mouth to 
stomach.

What was done while I was in the hospital?
  - Pictures were taken that showed the piece of food stuck.
  - A camera was inserted to see the piece and remove it.
  - Pictures were taken to make sure you had no leak after the 
piece was removed.

What should I do when I go home?
  - It is very important that you take your prescribed 
medications.
  - Please go to your scheduled appointment with your primary 
doctor.
  - If you have any fevers or chest pain, please tell your 
primary doctor or go to the emergency room.

Best wishes, 
  Your ___ team
 
Followup Instructions:
___